2201-10-14 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   A-line placed o/n
   OG lavage revealed only bilious fluid
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Norepinephrine - 0.2 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-14**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 96 (81 - 97) bpm
   BP: 111/56(71) {80/45(55) - 128/62(81)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  5,261 mL
   PO:
   TF:
   IVF:
                                                                  1,761 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,540 mL
   Urine:
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,721 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/56/159/43/16
   Ve: 6.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   10.7 g/dL
   120 mg/dL
   1.8 mg/dL
   43 mEq/L
   3.9 mEq/L
   70 mg/dL
   74 mEq/L
   127 mEq/L
   33.6 %
   11.7 K/uL
        [image002.jpg]
                            [**2201-10-14**]  12:36 AM
                            [**2201-10-14**]  12:48 AM
                            [**2201-10-14**]  02:50 AM
                            [**2201-10-14**]  05:51 AM
                            [**2201-10-14**]  06:08 AM
   WBC
   8.6
   11.7
   Hct
   33.0
   36
   33.6
   Plt
   162
   181
   Cr
   1.8
   TropT
   0.05
   TCO2
   45
   45
   43
   Glucose
   142
   125
   120
   Other labs: PT / PTT / INR:12.6/33.5/1.1, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.6,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.6
   mmol/L, Albumin:2.8 g/dL, LDH:199 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: Mr. [**Known lastname **] is a 58-year-old man with history of
   congenital heart disease and repairs in [**2160**], [**2185**] and [**2199**], status
   post replacements of the pulmonic and mitral valves with mosaic
   bioprostheses, closure of VSD and PFO, and surgical repair of the
   tricuspid valve, with CHF, DM, chronic afib on coumadin and multiple
   GIB, on home O2 transferred from OSH for continued management of heart
   failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but possible hypoventilated [**1-5**] CHF exacerbation or oxygen
   narcosis. PE also could present similarly but patient was therapeutic
   on coumadin to OSH. No report of ingestions. Hypoxia improved with
   ventilation. Gases improved to baseline. No known lung parenchymal
   disease.
   - consider PA catheter/Right heart cath in am
   - wean vent as tolerated
   - PE is felt unlikely at this time; will defer CTA
   - f/u TTE results
   - f/u TSH
   .
   # Hypotension: Unclear etiology. Sv02 on admission 92 but unclear how
   to interpret given strong possibility of VSD/PFO.  Also CVP measured at
   16 but given TR may not accurately reflect volume status/preload. No
   lactate to indicated hypoperfusion. Maybe be hypovolemic [**1-5**]
   overdiuresis or hemotypsis. No WBC or fever to indicate underlying
   infection/septic shock. Certainly, cardiogenic shock is possible but
   need more data prior to definitely diagnosis.
   - wean levophed/dopamine as tolerated
   - additional fluid bolus will be given as patient appears clinically
   dry
   - defer swan-ganz placement for now
   - hold antibiotics as no evidences of infection but follow up blood
   cultures
   - trend hct as below
   .
   # Hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.
   - f/u final CXR
   - f/u sputum Cx and gram stain
   - consult pulmonary in am
   - non-contrast chest CT
   - hold anticoagulation
   - maintain active T+S
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - eventually may proceed to RHC
   - f/u TTE
   - cont dopamine and levophed to titrate MAP>60
   - appreciate cardiothoracic surgery input re: valve integrity
   - hold diureses
   - would benefit from beta blocker once hemodynamically stable
   .
   # CORONARIES: No history of CAD on cath [**12-11**]. Cardiogenic shock
   unlikely [**1-5**] to ischemia.
   - f/u EKG
   - f/u cardiac enzymes
   - d/c ASA
   - continue statin
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # AOCKD: Baseline Cr unknown as last documented Cr here when patient
   was acutely ill. Cr now 1.8.  Urine lytes consistent with pre-renal
   etiology.
   - trend Cr, avoid nephrotoxins if possible
   - improved on fluids last night, will continue to bolus
   .
   # Hyponatremia: Clinically, dry mucous membranes. Likely [**1-5**]
   hypovolemia in setting of recent diureses of 5-7L at OSH.
   - 1L NS bolus
   - trend serum lytes
   - hold diuresis
   - f/u TSH
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/Cef/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - trend eos
   - monitor for now
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - f/u DIC labs
   - trend plts
   - xfuse plt<10 or <50k if bleeding
   .
   # Anemia: Patient has a history of anemia, unclear baseline hct, also
   currently bleeding.
   - guaiac stools
   - f/u iron studies
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)-need confirmation
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2201-10-14**] 12:34 AM
   20 Gauge - [**2201-10-14**] 12:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-10-15 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pulm c/s: patient appears dry, give fluids, will bronch tomorrow AM,
   if still in resp failure after euvolemia is achieved, consider inhaled
   nitric oxide to reduce pulm pressures
   - OSH records: sputum cx grew out MRSA, per ID curbside patient must be
   on vanc or linezolid x 3 weeks, started on vanc
   - failed PS trial [**1-5**] tachypnea
   - PCP [**Name Initial (PRE) **]: PFTs last performed [**11-10**], revealed FVC 1.47L, FEV1
   0.87L, ratio 0.59, no response to broncholdilators.  Severe restrictive
   ventilatory impairment.  Chronic respiratory acidosis with compensation
   at baseline with ABG 7.35/66/87, 96% 1.5L NC.  Dry weight noted as 185
   in [**2-9**].
   - RIJ central line placed, L subclavian pulled
   - gave 3L total NS, after each liter patient's tachycardia improved,
   urine output improved, pressor requirement decreased
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Vancomycin - [**2201-10-15**] 05:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Dopamine - 12 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-10-15**] 12:30 AM
   Pantoprazole (Protonix) - [**2201-10-15**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-15**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 98 (84 - 108) bpm
   BP: 105/48(65) {72/40(50) - 149/63(86)} mmHg
   RR: 19 (8 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 16 (2 - 16)mmHg
   Total In:
                                                                 10,209 mL
                                                                  1,607 mL
   PO:
   TF:
   IVF:
                                                                  6,469 mL
                                                                  1,607 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                    795 mL
   Urine:
                                                                  2,510 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,999 mL
                                                                    812 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 363 (332 - 378) mL
   PS : 16 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/51/102/32/9
   Ve: 8.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   191 K/uL
   10.2 g/dL
   122 mg/dL
   1.2 mg/dL
   32 mEq/L
   4.1 mEq/L
   52 mg/dL
   94 mEq/L
   133 mEq/L
   30.4 %
   9.5 K/uL
        [image002.jpg]
                            [**2201-10-14**]  12:36 AM
                            [**2201-10-14**]  12:48 AM
                            [**2201-10-14**]  02:50 AM
                            [**2201-10-14**]  05:51 AM
                            [**2201-10-14**]  06:08 AM
                            [**2201-10-14**]  05:00 PM
                            [**2201-10-14**]  05:02 PM
                            [**2201-10-15**]  03:02 AM
                            [**2201-10-15**]  04:03 AM
   WBC
   8.6
   11.7
   9.5
   Hct
   33.0
   36
   33.6
   33.4
   30.4
   Plt
   162
   181
   191
   Cr
   1.8
   1.6
   1.4
   1.2
   TropT
   0.05
   TCO2
   45
   45
   43
   35
   37
   Glucose
   142
   125
   126
   120
   138
   122
   Other labs: PT / PTT / INR:13.5/34.6/1.2, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.6,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.6
   mmol/L, Albumin:2.8 g/dL, LDH:199 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.8 mg/dL
   TTE: TR Gradient 64-70, Pulmonic Valve Peak Gradient 39 mmHg.  The left
   and right atria are markedly dilated. No atrial septal defect is seen
   by 2D or color Doppler. The estimated right atrial pressure is
   10-20mmHg. Left ventricular wall thickness, cavity size and
   regional/global systolic function are normal (LVEF >55%). There is a
   1cm mid-muscular ventricular septal defect (VSD) with bidirectional
   flow. The right ventricular cavity is moderately dilated with moderate
   global free wall hypokinesis. The aortic root is moderately dilated at
   the sinus level. The ascending aorta is moderately dilated. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. Trace aortic regurgitation is seen. A bioprosthetic mitral
   valve prosthesis is present. The mitral prosthesis appears well seated,
   with normal leaflet motion and transvalvular gradients. No mitral
   regurgitation is seen. [Due to acoustic shadowing, the severity of
   mitral regurgitation may be significantly UNDERestimated.] A tricuspid
   valve annuloplasty ring is present with normal gradient. Moderate to
   severe [3+] tricuspid regurgitation is seen. There is severe pulmonary
   artery systolic hypertension. A well-seated pulmonic valve prosthesis
   is present. The gradient is high normal. No pulmonary regurgitation is
   seen. There is no pericardial effusion.
   IMPRESSION: Muscular ventricular septal defect with bidirectional flow.
   Right ventricular cavity enlargement with free wall hypokinesis. Severe
   pulmonary artery systolic hypertension. Moderate to severe tricuspid
   regurgitation. Slightly increased pulmonic bioprosthetic gradient.
   Normal functioning mitral bioprosthesis.
   CT CHEST:
   IMPRESSION:
   1. No evidence for diffuse systemic lung disease such as interstitial
   lung disease. No fibrosis. No significant pulmonary edema.
   2. Small pleural effusions with relatively out of proportion bibasal
   atelectasis. This atelectasis could certainly compromise the limited
   reserve of this patient. Pneumonia may also coexist in this atelectatic
   lung.
   3. Right pulmonary artery dilatation compresses mainstem bronchi
   particulary onthe right which may also contribute to the limtied
   reserve.
   4. Pattern of ground glass nodulrity can be seen in primary pulmonary
   hypertension.
   5. Spiculated nodule in the left upper lobe. Recommend followup chest
   CT in three months.
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but possible hypoventilated [**1-5**] CHF exacerbation or oxygen
   narcosis. PE also could present similarly but patient was therapeutic
   on coumadin to OSH. No report of ingestions. Hypoxia improved with
   ventilation. Gases improved to baseline. No known lung parenchymal
   disease.  NOTE: MRSA pna is possible, compression of mainstem
   bronchous.
   - Pulm will bronch in AM
 possible NO later.
   - wean vent as tolerate, goal sat lower, turn down peep and FiO2.
   - PE is felt unlikely at this time; will defer CTA
   - f/u TSH, vanc lvl (target 3 wks of vanc treatment).
   .
   # Hypotension: Unclear etiology. Sv02 on admission 92 but unclear how
   to interpret given strong possibility of VSD/PFO.  Also CVP measured at
   16 but given TR may not accurately reflect volume status/preload. No
   lactate to indicated hypoperfusion. Maybe be hypovolemic [**1-5**]
   overdiuresis or hemotypsis. No WBC or fever to indicate underlying
   infection/septic shock. Certainly, cardiogenic shock is possible but
   need more data prior to definitely diagnosis.
   - wean levophed/dopamine as tolerated
   - additional fluid bolus will be given as patient appears clinically
   dry (i/o even)
   - defer swan-ganz placement for now
   - hold antibiotics as no evidences of infection but follow up blood
   cultures
   - trend hct as below
   .
   # Hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.
   - f/u CXR am
   - f/u sputum Cx and gram stain
   - pulmonary bronch in am
   - hold anticoagulation
   - maintain active T+S
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - eventually may proceed to RHC
   - f/u TTE
   - cont dopamine and levophed to titrate MAP>60
   - appreciate cardiothoracic surgery input re: valve integrity
   - hold diureses
   - would benefit from beta blocker once hemodynamically stable
   .
   # CORONARIES: No history of CAD on cath [**12-11**]. Cardiogenic shock
   unlikely [**1-5**] to ischemia.
   - f/u EKG
   - f/u cardiac enzymes
   - d/c ASA
   - continue statin
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # AOCKD: Baseline Cr unknown as last documented Cr here when patient
   was acutely ill. Cr now 1.8.  Urine lytes consistent with pre-renal
   etiology.
   - trend Cr, avoid nephrotoxins if possible
   - improved on fluids last night, will continue to bolus prn
   .
   # Hyponatremia: Clinically, dry mucous membranes. Likely [**1-5**]
   hypovolemia in setting of recent diureses of 5-7L at OSH.
   - 1L NS bolus
   - trend serum lytes
   - hold diuresis
   - f/u TSH
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/Cef/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - trend eos
   - monitor for now
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - f/u DIC labs
   - trend plts
   - xfuse plt<10 or <50k if bleeding
   .
   # Anemia: Patient has a history of anemia, unclear baseline hct, also
   currently bleeding.
   - guaiac stools
   - f/u iron studies
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)-need confirmation
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-10-14**] 12:37 AM
   Arterial Line - [**2201-10-14**] 04:32 AM
   Multi Lumen - [**2201-10-14**] 12:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-10-16 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-15**]
   - Pulm bronch - sent for cultures and on cefepime now, on albuterol and
   ipratropium.
   - attempted to wean down FiO2, RR, but did not tolerate.
   - nutrition c/s - started tube feed.
   - CT: IMPRESSION: No evidence for diffuse systemic lung disease such as
   interstitial lung disease. No fibrosis. No significant pulmonary edema.
   Small pleural effusions with relatively out of proportion bibasal
   atelectasis. This atelectasis could certainly compromise the limited
   reserve of this patient. Pneumonia may also coexist in this atelectatic
   lung. Right pulmonary artery dilatation compresses mainstem bronchi
   particulary on the right which may also contribute to the limtied
   reserve. Pattern of ground glass nodulrity can be seen in primary
   pulmonary hypertension. Spiculated nodule in the left upper lobe.
   Recommend followup chest CT in three months.
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Cefipime - [**2201-10-16**] 01:48 AM
   Vancomycin - [**2201-10-16**] 04:09 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-15**] 12:12 PM
   Heparin Sodium (Prophylaxis) - [**2201-10-15**] 11:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-16**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 75 (75 - 105) bpm
   BP: 88/38(49) {81/38(49) - 155/70(90)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.3 kg (admission): 87.4 kg
   Height: 68 Inch
    CVP: 7 (4 - 17)mmHg
   Total In:
                                                                  3,970 mL
                                                                  1,094 mL
   PO:
   TF:
                                                                    131 mL
                                                                    283 mL
   IVF:
                                                                  3,839 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    510 mL
   Urine:
                                                                  1,975 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,995 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 143 (143 - 143) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.34/62/123/33/5
   Ve: 6 L/min
   PaO2 / FiO2: 246
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   207 K/uL
   9.2 g/dL
   143 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.1 mEq/L
   39 mg/dL
   97 mEq/L
   135 mEq/L
   28.8 %
   8.1 K/uL
        [image002.jpg]
                            [**2201-10-14**]  05:00 PM
                            [**2201-10-14**]  05:02 PM
                            [**2201-10-15**]  03:02 AM
                            [**2201-10-15**]  04:03 AM
                            [**2201-10-15**]  10:23 AM
                            [**2201-10-15**]  01:28 PM
                            [**2201-10-15**]  02:48 PM
                            [**2201-10-15**]  05:52 PM
                            [**2201-10-16**]  03:24 AM
                            [**2201-10-16**]  03:48 AM
   WBC
   9.5
   8.1
   Hct
   33.4
   30.4
   28.8
   Plt
   191
   207
   Cr
   1.4
   1.2
   1.1
   TCO2
   35
   37
   35
   34
   35
   32
   35
   Glucose
   138
   122
   143
   Other labs: PT / PTT / INR:13.5/34.6/1.2, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.6,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.6
   mmol/L, Albumin:2.8 g/dL, LDH:199 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most likely PNA in the setting of COPD.  No report of
   aspiration. Hypoxia improved with ventilation. Gases improved to
   baseline. No known lung parenchymal disease.  NOTE: MRSA pna is
   possible, compression of mainstem bronchous.
   - Bronch c/w PNA
       - sent for cultures and on cefepime now, on albuterol and
   ipratropium.
   - wean vent as tolerate, goal sat lower, turn down peep and FiO2.
   Patient is hypercarbic at baseline.
   - PE is felt unlikely at this time; will defer CTA
   - f/u TSH
   .
   # Hypotension: Unclear etiology. Sv02 on admission 92 but unclear how
   to interpret given strong possibility of VSD/PFO.  Also CVP measured at
   16 but given TR may not accurately reflect volume status/preload. No
   lactate to indicated hypoperfusion. Maybe be hypovolemic [**1-5**]
   overdiuresis or hemotypsis. No WBC or fever to indicate underlying
   infection/septic shock. Certainly, cardiogenic shock is possible but
   need more data prior to definitely diagnosis.
   - wean levophed/dopamine as tolerated
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o even)
   - defer swan-ganz placement for now
   - trend hct
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs
   - f/u vanc level
   # Hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.
   - bronch showed only intubation trauma
   - hold anticoagulation
   - maintain active T+S
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - f/u TTE
   - cont dopamine and levophed to titrate MAP>60
   - appreciate cardiothoracic surgery input re: valve integrity
   - hold diuresis
   - would benefit from beta blocker once hemodynamically stable
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # ARF: Cr now improving s/p fluid bolus.  Urine lytes consistent with
   pre-renal etiology.
   - trend Cr
   - improved on fluids last night, will continue to bolus prn
   .
   # Hyponatremia: Clinically, dry mucous membranes. Likely [**1-5**]
   hypovolemia in setting of recent diureses of 5-7L at OSH.
   - 1L NS bolus
   - trend serum lytes
   - hold diuresis
   - f/u TSH
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/Cef/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - trend eos
   - monitor for now
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - f/u DIC labs
   - trend plts
   - xfuse plt<10 or <50k if bleeding
   .
   # Anemia: Patient has a history of anemia, unclear baseline hct, also
   currently bleeding.
   - guaiac stools
   - f/u iron studies
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)-need confirmation
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-10-15**] 05:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-10-14**] 12:37 AM
   Arterial Line - [**2201-10-14**] 04:32 AM
   Multi Lumen - [**2201-10-14**] 12:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-10-17 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Did extremely well on pressure support all day, tolerated FIO2 of
   35%, placed back on A/C overnight to rest for extubation this AM
   -Nursing to wean sedation in AM
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Vancomycin - [**2201-10-16**] 04:09 AM
   Cefipime - [**2201-10-16**] 02:17 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.31 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-16**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2201-10-16**] 05:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-17**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 80 (75 - 90) bpm
   BP: 125/46(65) {101/40(54) - 166/64(88)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.3 kg (admission): 87.4 kg
   Height: 68 Inch
    CVP: 6 (5 - 16)mmHg
   Total In:
                                                                  4,775 mL
                                                                    332 mL
   PO:
   TF:
                                                                  1,062 mL
   IVF:
                                                                  3,562 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    400 mL
   Urine:
                                                                  1,350 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,425 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 72 (72 - 463) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 118
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.46/43/82.[**Numeric Identifier 96**]//5
   Ve: 5.9 L/min
   PaO2 / FiO2: 237
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   244 K/uL
   8.6 g/dL
   161 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.8 mEq/L
   39 mg/dL
   97 mEq/L
   135 mEq/L
   25.9 %
   5.6 K/uL
        [image002.jpg]
                            [**2201-10-15**]  10:23 AM
                            [**2201-10-15**]  01:28 PM
                            [**2201-10-15**]  02:48 PM
                            [**2201-10-15**]  05:52 PM
                            [**2201-10-16**]  03:24 AM
                            [**2201-10-16**]  03:48 AM
                            [**2201-10-16**]  02:41 PM
                            [**2201-10-16**]  08:15 PM
                            [**2201-10-17**]  05:38 AM
                            [**2201-10-17**]  06:31 AM
   WBC
   8.1
   5.6
   Hct
   28.8
   25.9
   Plt
   207
   244
   Cr
   1.1
   TCO2
   35
   34
   35
   32
   35
   34
   34
   32
   Glucose
   143
   161
   Other labs: PT / PTT / INR:13.5/34.6/1.2, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.6,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:199 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most likely PNA in the setting of COPD.  No report of
   aspiration. Hypoxia improved with ventilation. Gases improved to
   baseline. No known lung parenchymal disease.  NOTE: MRSA pna is
   possible, compression of mainstem bronchous.
   - Bronch c/w PNA
   - sent for cultures and on vanc and cefepime, on albuterol and
   ipratropium.
   - wean vent as tolerate, goal sat lower, turn down peep and FiO2.
   Patient is hypercarbic at baseline.
   - PE is felt unlikely at this time; will defer CTA
   .
   # Hypotension: Unclear etiology. Sv02 on admission 92 but unclear how
   to interpret given strong possibility of VSD/PFO.  Also CVP measured at
   16 but given TR may not accurately reflect volume status/preload. No
   lactate to indicated hypoperfusion. Maybe be hypovolemic [**1-5**]
   overdiuresis or hemotypsis. No WBC or fever to indicate underlying
   infection/septic shock. Certainly, cardiogenic shock is possible but
   need more data prior to definitely diagnosis.
   - wean levophed/dopamine as tolerated
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs
   - f/u vanc level
   # Hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.
   - bronch showed only intubation trauma
   - hold anticoagulation
   - maintain active T+S
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - f/u TTE
   - cont dopamine and levophed to titrate MAP>60
   - appreciate cardiothoracic surgery input re: valve integrity
   - hold diuresis
   - would benefit from beta blocker once hemodynamically stable
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # ARF: Cr now improving s/p fluid bolus.  Urine lytes consistent with
   pre-renal etiology.
   - trend Cr
   - improved on fluids last night, will continue to bolus prn
   .
   # Hyponatremia: Clinically, dry mucous membranes. Likely [**1-5**]
   hypovolemia in setting of recent diureses of 5-7L at OSH.
   - 1L NS bolus
   - trend serum lytes
   - hold diuresis
   - f/u TSH
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/Cef/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - trend eos
   - monitor for now
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - f/u DIC labs
   - trend plts
   - xfuse plt<10 or <50k if bleeding
   .
   # Anemia: Patient has a history of anemia, unclear baseline hct, also
   currently bleeding.
   - guaiac stools
   - f/u iron studies
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)-need confirmation
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-10-14**] 04:32 AM
   Multi Lumen - [**2201-10-14**] 12:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-10-18 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - did well on pressure support for 9 hours, then tired out (decreased
   tidal volumes)
   - weaned off of pressors
   - held vanc [**1-5**] supratherapeutic level
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Vancomycin - [**2201-10-16**] 04:09 AM
   Cefipime - [**2201-10-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-10-17**] 06:00 PM
   Midazolam (Versed) - [**2201-10-18**] 12:00 AM
   Fentanyl - [**2201-10-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 85 (72 - 103) bpm
   BP: 88/45(58) {81/37(50) - 133/57(76)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90.5 kg (admission): 87.4 kg
   Height: 68 Inch
    CVP: 12 (4 - 17)mmHg
   Total In:
                                                                    783 mL
                                                                  1,001 mL
   PO:
   TF:
                                                                     69 mL
                                                                    181 mL
   IVF:
                                                                    713 mL
                                                                    621 mL
   Blood products:
   Total out:
                                                                    962 mL
                                                                    180 mL
   Urine:
                                                                    962 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -179 mL
                                                                    821 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 390 (337 - 408) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.42/51/90.[**Numeric Identifier 128**]/32/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 225
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   218 K/uL
   7.7 g/dL
   112 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.3 mEq/L
   30 mg/dL
   105 mEq/L
   140 mEq/L
   23.6 %
   4.2 K/uL
        [image002.jpg]
                            [**2201-10-16**]  03:48 AM
                            [**2201-10-16**]  02:41 PM
                            [**2201-10-16**]  08:15 PM
                            [**2201-10-17**]  05:38 AM
                            [**2201-10-17**]  06:31 AM
                            [**2201-10-17**]  12:20 PM
                            [**2201-10-17**]  03:27 PM
                            [**2201-10-17**]  09:14 PM
                            [**2201-10-18**]  02:24 AM
                            [**2201-10-18**]  02:44 AM
   WBC
   5.6
   4.2
   Hct
   25.9
   23.6
   Plt
   244
   218
   Cr
   1.0
   1.1
   TCO2
   35
   34
   34
   32
   39
   34
   32
   34
   Glucose
   161
   118
   126
   112
   Other labs: PT / PTT / INR:13.0/34.1/1.1, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.6,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:199 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most [**Name (NI) 10842**] PNA.  No report of aspiration. Hypoxia
   improved with ventilation. Gases improved to baseline. No known lung
   parenchymal disease.  Sputum cx here (+) for MRSA.
   - Bronch c/w PNA.
   - sent for cultures and on vanc and cefepime, on albuterol and
   ipratropium.
   - as patient is tolerating PS, will consider extubation today.
   - wean vent as tolerated.  Patient is hypercarbic at baseline.
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient has
   been repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH.  Sputum cx here
   grew out coag + Staph, [**Last Name (un) **] pending.
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs.  No indications for atypical coverage at this time.
   - f/u vanc level
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.
   - transfuse 1u pRBC
   - check hemolysis labs, B12, folate
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - cont dopamine and levophed to titrate MAP>60
   - hold diuresis
   - would benefit from beta blocker once hemodynamically stable
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Anemia: Patient has a history of anemia, unclear baseline hct, also
   currently bleeding.
   - guaiac stools
   - f/u iron studies
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # thrush
 noted to have thrush in mouth, on nystatin oral swishes.
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-10-14**] 04:32 AM
   Multi Lumen - [**2201-10-14**] 12:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-10-19 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - failed extubation, reintubated, new OG tube placed.
   - pulm rec: trach
   - hct repeated was back up to previous level without transfusion, held
   prbc.
   - [**Last Name (un) 45**] stim was normal.
   - no BM yet.
   - given tylenol and fluid boluses (250cc x 2)
   - transfused 1 unit.
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Vancomycin - [**2201-10-18**] 08:35 AM
   Cefipime - [**2201-10-18**] 07:49 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-18**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2201-10-18**] 11:36 PM
   Midazolam (Versed) - [**2201-10-19**] 05:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-19**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 59 (56 - 119) bpm
   BP: 104/46(64) {81/36(48) - 177/77(107)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.7 kg (admission): 87.4 kg
   Height: 68 Inch
    CVP: 259 (8 - 259)mmHg
   Total In:
                                                                  2,928 mL
                                                                    642 mL
   PO:
   TF:
                                                                    637 mL
                                                                    426 mL
   IVF:
                                                                  1,761 mL
                                                                    125 mL
   Blood products:
                                                                     92 mL
   Total out:
                                                                    549 mL
                                                                    247 mL
   Urine:
                                                                    549 mL
                                                                    247 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,379 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 330 (330 - 330) mL
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 18 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: 7.42/45/120/30/4
   Ve: 7.9 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   7.6 g/dL
   152 mg/dL
   1.3 mg/dL
   30 mEq/L
   4.0 mEq/L
   34 mg/dL
   107 mEq/L
   142 mEq/L
   23.9 %
   6.3 K/uL
        [image002.jpg]
                            [**2201-10-17**]  03:27 PM
                            [**2201-10-17**]  09:14 PM
                            [**2201-10-18**]  02:24 AM
                            [**2201-10-18**]  02:44 AM
                            [**2201-10-18**]  11:45 AM
                            [**2201-10-18**]  11:55 AM
                            [**2201-10-18**]  02:38 PM
                            [**2201-10-19**]  04:00 AM
                            [**2201-10-19**]  04:01 AM
                            [**2201-10-19**]  04:50 AM
   WBC
   4.2
   6.3
   Hct
   23.6
   26.3
   23.5
   23.9
   Plt
   218
   274
   Cr
   1.1
   1.3
   TCO2
   34
   32
   34
   31
   33
   30
   Glucose
   126
   112
   152
   Other labs: PT / PTT / INR:13.2/33.4/1.1, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most [**Name (NI) 10842**] PNA.  No report of aspiration. Hypoxia
   improved with ventilation. Gases improved to baseline. No known lung
   parenchymal disease.  Sputum cx here (+) for MRSA.
   - Bronch c/w PNA.
   - sent for cultures and on vanc and cefepime, on albuterol and
   ipratropium.
   - as patient is tolerating PS, will consider extubation today.
   - wean vent as tolerated.  Patient is hypercarbic at baseline.
   - f/u IP rec
 and trach [**10-19**].
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient has
   been repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH.  Sputum cx here
   grew out coag + Staph, [**Last Name (un) **] pending.
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs.  No indications for atypical coverage at this time.
   - f/u vanc level
 ok to give today
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.
   - transfuse 1u pRBC, f/u hct
   - check hemolysis labs, B12, folate
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - cont dopamine and levophed to titrate MAP>60
   - hold diuresis
   - would benefit from beta blocker once hemodynamically stable
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Anemia: Patient has a history of anemia, unclear baseline hct, also
   currently bleeding.
   - guaiac stools
   - f/u iron studies
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # thrush
 noted to have thrush in mouth, on fluconazole.
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-10-19**] 05:14 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-10-14**] 04:32 AM
   Multi Lumen - [**2201-10-14**] 12:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-10-20 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - off pressors
   - having lots of diarrhea, nursing placed flexi-seal C.Diff sent (not
   logged)
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Vancomycin - [**2201-10-19**] 10:00 AM
   Cefipime - [**2201-10-19**] 07:46 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-10-19**] 04:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-20**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 67 (58 - 85) bpm
   BP: 108/53(69) {83/40(54) - 138/74(95)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.5 kg (admission): 87.4 kg
   Height: 68 Inch
    CVP: 27 (0 - 259)mmHg
   Total In:
                                                                  2,488 mL
                                                                     72 mL
   PO:
   TF:
                                                                  1,293 mL
   IVF:
                                                                    565 mL
                                                                     72 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    872 mL
                                                                    310 mL
   Urine:
                                                                    872 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,616 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 334 (228 - 334) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.37/54/117/29/4
   Ve: 9.2 L/min
   PaO2 / FiO2: 293
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   266 K/uL
   7.8 g/dL
   99 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.3 mEq/L
   33 mg/dL
   108 mEq/L
   141 mEq/L
   24.9 %
   5.4 K/uL
         [image002.jpg]
                            [**2201-10-18**]  11:55 AM
                            [**2201-10-18**]  02:38 PM
                            [**2201-10-19**]  04:00 AM
                            [**2201-10-19**]  04:01 AM
                            [**2201-10-19**]  04:50 AM
                            [**2201-10-19**]  01:53 PM
                            [**2201-10-19**]  02:35 PM
                            [**2201-10-19**]  10:49 PM
                            [**2201-10-20**]  03:45 AM
                            [**2201-10-20**]  04:03 AM
   WBC
   6.3
   5.9
   6.5
   5.4
   Hct
   23.5
   23.9
   25.8
   26.5
   24.9
   Plt
   274
   266
   Cr
   1.3
   1.2
   TCO2
   31
   33
   30
   32
   32
   Glucose
   152
   99
   Other labs: PT / PTT / INR:13.4/31.8/1.1, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most [**Name (NI) 10842**] PNA.  No report of aspiration. Hypoxia
   improved with ventilation. Gases improved to baseline. No known lung
   parenchymal disease.  Sputum cx here (+) for MRSA.
   - Bronch c/w PNA.
   - sent for cultures and on vanc and cefepime, on albuterol and
   ipratropium.
   - as patient is tolerating PS, will consider extubation today.
   - Currently on SIMV, going for trach today
   - f/u IP rec
 and trach [**10-19**].
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient has
   been repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH.  Sputum cx here
   grew out coag + Staph, [**Last Name (un) **] pending.
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs.  No indications for atypical coverage at this time.
   - f/u vanc level
 ok to give today
   - PICC today
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.
   - transfuse 1u pRBC, f/u hct
   - check hemolysis labs, B12, folate
 no source found
   - needs o/p work-up
   .
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - hold diuresis
   - beta blocker
   - keep even
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Anemia: Patient has a history of anemia, unclear baseline hct, also
   currently bleeding.
   - guaiac stools
   - f/u iron studies
   - trend hct q8h, xfuse hct<21 or active ischemia
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # thrush
 noted to have thrush in mouth, on fluconazole.
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding, PEG
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now, trach rehab, need to consolidate o/p meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-10-14**] 04:32 AM
   Multi Lumen - [**2201-10-14**] 12:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10810**].
   I would add the following remarks:
   History
   Off pressors.
   Vent settings adjusted as per pulm.
   To OR today for trach/peg.
   Cr 1.2.
   One unit PRBC.
   Medical Decision Making
   Continues of Vanc, cefipime.
   Plan for rehab stay with anticipated long vent wean.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 4943**], MD
   on:[**2201-10-20**] 11:21 ------

2201-10-21 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - trach and peg placed
   - no events, stable on trach
   - C. Diff negative.
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Cefipime - [**2201-10-20**] 08:21 AM
   Vancomycin - [**2201-10-20**] 08:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-20**] 08:13 AM
   Fentanyl - [**2201-10-20**] 09:17 PM
   Heparin Sodium (Prophylaxis) - [**2201-10-21**] 12:10 AM
   Midazolam (Versed) - [**2201-10-21**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-21**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 65 (64 - 83) bpm
   BP: 100/45(62) {83/37(54) - 126/64(81)} mmHg
   RR: 20 (8 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.5 kg (admission): 87.4 kg
   Height: 68 Inch
    CVP: 15 (10 - 19)mmHg
   Total In:
                                                                    958 mL
                                                                     71 mL
   PO:
   TF:
   IVF:
                                                                    958 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    717 mL
                                                                    155 mL
   Urine:
                                                                    717 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    241 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 248 (119 - 325) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 6.3 L/min
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   304 K/uL
   7.9 g/dL
   87 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   32 mg/dL
   108 mEq/L
   140 mEq/L
   24.7 %
   5.8 K/uL
        [image002.jpg]
                            [**2201-10-19**]  04:00 AM
                            [**2201-10-19**]  04:01 AM
                            [**2201-10-19**]  04:50 AM
                            [**2201-10-19**]  01:53 PM
                            [**2201-10-19**]  02:35 PM
                            [**2201-10-19**]  10:49 PM
                            [**2201-10-20**]  03:45 AM
                            [**2201-10-20**]  04:03 AM
                            [**2201-10-20**]  04:56 PM
                            [**2201-10-21**]  04:47 AM
   WBC
   6.3
   5.9
   6.5
   5.4
   5.8
   Hct
   23.5
   23.9
   25.8
   26.5
   24.9
   24.4
   24.7
   Plt
   274
   266
   304
   Cr
   1.3
   1.2
   1.3
   TCO2
   30
   32
   32
   Glucose
   152
   99
   87
   Other labs: PT / PTT / INR:13.7/33.0/1.2, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most [**Name (NI) 10842**] PNA.  No report of aspiration. Hypoxia
   improved with ventilation. Gases improved to baseline. No known lung
   parenchymal disease.  Sputum cx here (+) for MRSA PNA.
   - on vanc D6/21 and cefepime D2/8, on albuterol and ipratropium.
   - daily rsbi and PSV, wean trials.
   - on trach
   - f/u IP rec
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient has
   been repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH.  Sputum cx here
   grew out coag + Staph, [**Last Name (un) **] pending.
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs.  No indications for atypical coverage at this time.
   - f/u daily vanc level, was reduced to 750 daily.
   - PICC today
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.  Patient has a history of anemia,
   unclear baseline hct.
   - transfuse 1u pRBC, f/u hct
   - hemolysis labs, B12, folate wnl
 no source found
   - xfuse hct<21 or active ischemia
   - needs o/p work-up
   .
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - hold diuresis
   - beta blocker
   - keep even
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # thrush
 noted to have thrush in mouth, on fluconazole D2/7.
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding, PEG
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now, trach rehab, need to consolidate o/p meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-10-14**] 04:32 AM
   Multi Lumen - [**2201-10-14**] 12:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Reviewed events over past 24 hours
   Physical Examination
   Agree with recorded exam
   Medical Decision Making
   Respiratory failure. Do not think that cardiac shunt or valvular
   disease is a major contributor at this time.  Will plan to maintain
   volume status and continue respiratory therapy and other plan as
   above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4533**], MD
   on:[**2201-10-21**] 16:30 ------

2201-10-22 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2201-10-21**] 12:11 PM
 MULTI LUMEN - STOP [**2201-10-21**] 03:36 PM
   - no events.
   - note: home med include warfarin, lasix, bb please be sure to restart
   prior to discharge.
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Vancomycin - [**2201-10-20**] 08:22 AM
   Fluconazole - [**2201-10-21**] 08:15 AM
   Cefipime - [**2201-10-21**] 08:06 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-21**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2201-10-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 63 (54 - 79) bpm
   BP: 104/47(63) {88/40(55) - 135/55(77)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 93.5 kg (admission): 87.4 kg
   Height: 68 Inch
    CVP: 14 (14 - 19)mmHg
   Total In:
                                                                    514 mL
                                                                    437 mL
   PO:
   TF:
                                                                    244 mL
                                                                    362 mL
   IVF:
                                                                    270 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    582 mL
                                                                    310 mL
   Urine:
                                                                    582 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -68 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 330 (255 - 406) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.32/49/120/28/-1
   Ve: 6.5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   282 K/uL
   7.9 g/dL
   126 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   34 mg/dL
   110 mEq/L
   142 mEq/L
   24.9 %
   5.8 K/uL
        [image002.jpg]
                            [**2201-10-19**]  04:50 AM
                            [**2201-10-19**]  01:53 PM
                            [**2201-10-19**]  02:35 PM
                            [**2201-10-19**]  10:49 PM
                            [**2201-10-20**]  03:45 AM
                            [**2201-10-20**]  04:03 AM
                            [**2201-10-20**]  04:56 PM
                            [**2201-10-21**]  04:47 AM
                            [**2201-10-21**]  10:44 AM
                            [**2201-10-22**]  05:37 AM
   WBC
   5.9
   6.5
   5.4
   5.8
   5.8
   Hct
   23.9
   25.8
   26.5
   24.9
   24.4
   24.7
   24.9
   Plt
   266
   304
   282
   Cr
   1.2
   1.3
   1.5
   TCO2
   32
   32
   26
   Glucose
   99
   87
   126
   Other labs: PT / PTT / INR:13.6/33.5/1.2, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most [**Name (NI) 10842**] PNA.  No report of aspiration. Hypoxia
   improved with ventilation. Gases improved to baseline. No known lung
   parenchymal disease.  Sputum cx here (+) for MRSA PNA.
   - on vanc D8/21 and cefepime D7/8, on albuterol and ipratropium.
   - daily rsbi and PSV, wean trials.
   - on trach
   - f/u IP rec
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient has
   been repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH.  Sputum cx here
   grew out coag + Staph, [**Last Name (un) **] pending.
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs.  No indications for atypical coverage at this time.
   - f/u daily vanc level, was reduced to 750 daily.
   - PICC today
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.  Patient has a history of anemia,
   unclear baseline hct.
   - transfuse 1u pRBC, f/u hct
   - hemolysis labs, B12, folate wnl
 no source found
   - xfuse hct<21 or active ischemia
   - needs o/p work-up
   .
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # ARF: Cr elevated this AM 1.5.  Unclear what baseline Cr is; trough Cr
   during this hospitalization is 1.0.  No acute elevation in BUN.
   - send urine electrolytes
   - dose vanc renally
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - hold diuresis
   - beta blocker
   - keep even
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   - f/u HgbA1c
   .
   # thrush
 noted to have thrush in mouth, on fluconazole D3/7.
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding, PEG
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now, going for rehab, need to consolidate o/p meds.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-10-22**] 05:12 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-10-14**] 04:32 AM
   PICC Line - [**2201-10-21**] 12:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Focus on respiratory failure with plan for trial on CPAP and progress
   to rehab transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4533**], MD
   on:[**2201-10-22**] 19:44 ------

2201-10-23 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2201-10-22**] 08:30 PM
   FeNa(0.52), FeBUN (10) looked pre-renal, pt bolused labs looked
   marginally better
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Fluconazole - [**2201-10-21**] 08:15 AM
   Vancomycin - [**2201-10-22**] 08:30 AM
   Cefipime - [**2201-10-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2201-10-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 71 (63 - 82) bpm
   BP: 102/42(57) {100/42(57) - 124/64(74)} mmHg
   RR: 25 (12 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.8 kg (admission): 87.4 kg
   Height: 68 Inch
             Total In:
                                                                  2,596 mL
                                                                  1,031 mL
   PO:
             TF:
                                                                  1,286 mL
                                                                    409 mL
   IVF:
                                                                  1,090 mL
                                                                    532 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    247 mL
   Urine:
                                                                  1,005 mL
                                                                    247 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,591 mL
                                                                    784 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 254 (254 - 465) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 115
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.36/50/108/26/1
   Ve: 8 L/min
   PaO2 / FiO2: 270
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   303 K/uL
   8.1 g/dL
   129 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.5 mEq/L
   32 mg/dL
   110 mEq/L
   141 mEq/L
   26.2 %
   6.4 K/uL
        [image002.jpg]
                            [**2201-10-20**]  03:45 AM
                            [**2201-10-20**]  04:03 AM
                            [**2201-10-20**]  04:56 PM
                            [**2201-10-21**]  04:47 AM
                            [**2201-10-21**]  10:44 AM
                            [**2201-10-22**]  05:37 AM
                            [**2201-10-22**]  10:05 AM
                            [**2201-10-22**]  11:31 AM
                            [**2201-10-22**]  03:04 PM
                            [**2201-10-23**]  06:10 AM
   WBC
   5.4
   5.8
   5.8
   6.4
   Hct
   24.9
   24.4
   24.7
   24.9
   26.2
   Plt
   266
   304
   282
   303
   Cr
   1.2
   1.3
   1.5
   1.4
   TCO2
   32
   26
   30
   30
   29
   Glucose
   99
   87
   126
   129
   Other labs: PT / PTT / INR:13.6/33.5/1.2, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most [**Name (NI) 10842**] PNA.  No report of aspiration. Hypoxia
   improved with ventilation. Gases improved to baseline. No known lung
   parenchymal disease.  Sputum cx here (+) for MRSA PNA.
   - on vanc D8/21 and cefepime D7/8, on albuterol and ipratropium.
   - daily rsbi and PSV, wean trials.
   - on trach
   - f/u IP rec
   - continued on fluconazole D4/7 (thrush)
   .
   # ARF: Cr elevated this AM 1.5.  Unclear what baseline Cr is; trough Cr
   during this hospitalization is 1.0.  No acute elevation in BUN.  Likely
   pre-renal, will need to rehydrate.
   - continue maintenance, give IVF bolus throughout the day.
   - dose vanc renally 1g Q48H
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH.  Sputum cx here
   grew out coag + Staph, [**Last Name (un) **] pending.
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs.  No indications for atypical coverage at this time.
   - f/u daily vanc level, was reduced to 1g q 48h.
   - PICC today
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient has
   been repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.  Patient has a history of anemia,
   unclear baseline hct.
   - transfuse 1u pRBC, f/u hct
   - hemolysis labs, B12, folate wnl
 no source found
   - xfuse hct<21 or active ischemia
   - needs o/p work-up
   .
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - hold diuresis
   - beta blocker
   - keep even to slightly positive
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding, PEG
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI -> PO
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: tube feed consult
   .
   DISPO: CCU for now, going for rehab, need to consolidate o/p meds.  If
   prolonged delay, pulm willing to take patient
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-10-23**] 03:58 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-10-21**] 12:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Cardiac status stable.
   Respiratory staus remains primary concern.  Continue weaning efforts.
   Nutritional support.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4533**], MD
   on:[**2201-10-23**] 17:52 ------

2201-10-24 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - successfully spent some time out of bed to chair
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Fluconazole - [**2201-10-21**] 08:15 AM
   Vancomycin - [**2201-10-22**] 08:30 AM
   Cefipime - [**2201-10-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-10-23**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-24**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 76 (60 - 98) bpm
   BP: 104/49(64) {94/41(55) - 116/70(79)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 96.4 kg (admission): 87.4 kg
   Height: 68 Inch
             Total In:
                                                                  2,356 mL
                                                                    545 mL
   PO:
             TF:
                                                                  1,348 mL
                                                                    393 mL
   IVF:
                                                                    847 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    697 mL
                                                                    215 mL
   Urine:
                                                                    697 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,659 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 382 (305 - 416) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 4.9 L/min
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   315 K/uL
   8.4 g/dL
   117 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.9 mEq/L
   34 mg/dL
   108 mEq/L
   141 mEq/L
   27.5 %
   6.3 K/uL
        [image002.jpg]
                            [**2201-10-20**]  04:03 AM
                            [**2201-10-20**]  04:56 PM
                            [**2201-10-21**]  04:47 AM
                            [**2201-10-21**]  10:44 AM
                            [**2201-10-22**]  05:37 AM
                            [**2201-10-22**]  10:05 AM
                            [**2201-10-22**]  11:31 AM
                            [**2201-10-22**]  03:04 PM
                            [**2201-10-23**]  06:10 AM
                            [**2201-10-24**]  06:00 AM
   WBC
   5.8
   5.8
   6.4
   6.3
   Hct
   24.4
   24.7
   24.9
   26.2
   27.5
   Plt
   [**Telephone/Fax (3) 10899**]15
   Cr
   1.3
   1.5
   1.4
   1.5
   TCO2
   32
   26
   30
   30
   29
   Glucose
   87
   126
   129
   117
   Other labs: PT / PTT / INR:13.4/31.9/1.1, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure
   unclear but most [**Name (NI) 10842**] PNA.  No report of aspiration. Hypoxia
   improved with ventilation. Gases improved to baseline. No known lung
   parenchymal disease.  Sputum cx here (+) for MRSA PNA.
   - on vanc D10/21, on albuterol and ipratropium.  Completed 8 day course
   of cefepime.
   - daily rsbi and PSV, wean trials, on trach
   - f/u IP rec
   - continued on fluconazole D5/7 (thrush)
   .
   # ARF: Cr elevated this AM 1.5.  Unclear what baseline Cr is; trough Cr
   during this hospitalization is 1.0.  No acute elevation in BUN.  Likely
   pre-renal, will need to rehydrate.
   - continue maintenance, give IVF bolus throughout the day.
   - Increase free water flushes with tube feeds.
   - dose vanc renally 1g Q48H
   .
   # MRSA PNA
 found to have MRSA in sputum cx at OSH.  Sputum cx here
   grew out coag + Staph, [**Last Name (un) **] pending.
   - vancomycin for 3 weeks (started [**10-14**]), added cefepime per bronch
   recs.  No indications for atypical coverage at this time.
   - f/u daily vanc level, was reduced to 1g q 48h.
   - PICC today
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient has
   been repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors
   - goal I+O even, if patient hypotensive will consider addl fluid bolus
   (i/o slightly positive)
   - trend hct
   .
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.  Patient has a history of anemia,
   unclear baseline hct.
   - transfuse 1u pRBC, f/u hct
   - hemolysis labs, B12, folate wnl
 no source found
   - xfuse hct<21 or active ischemia
   - needs o/p work-up
   .
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - hold diuresis
   - beta blocker
   - keep even to slightly positive
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation once hemoptysis improves
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   .
   # HL: cont lipitor
   .
   # Depression/Anxiety: cont abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding, PEG
   .
   ACCESS: L subclavian, R radial aline
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI -> PO
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: on tube feeds
   .
   DISPO: CCU for now, going for rehab, need to consolidate o/p meds.  If
   prolonged delay, pulm willing to take patient
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-10-24**] 02:10 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-10-21**] 12:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   No active cardiac issues.
   Respiratory status improving slightly.
   Await respiratory rehab availability.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4533**], MD
   on:[**2201-10-24**] 12:11 ------

2201-10-26 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - does not tolerate [**4-7**] had to stay at 8-10/5
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Cefipime - [**2201-10-23**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-25**] 08:00 AM
   Coumadin (Warfarin) - [**2201-10-25**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2201-10-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-26**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 69 (59 - 77) bpm
   BP: 108/45(61) {101/40(56) - 125/65(76)} mmHg
   RR: 16 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 96.4 kg (admission): 87.4 kg
   Height: 68 Inch
                  Total In:
                                                                  2,461 mL
                                                                    876 mL
   PO:
                  TF:
                                                                  1,321 mL
                                                                    426 mL
   IVF:
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    240 mL
   Urine:
                                                                  1,085 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,376 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 297 (297 - 485) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 5.8 L/min
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   258 K/uL
   7.7 g/dL
   115 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.9 mEq/L
   34 mg/dL
   106 mEq/L
   140 mEq/L
   25.2 %
   5.2 K/uL
        [image002.jpg]
                            [**2201-10-21**]  04:47 AM
                            [**2201-10-21**]  10:44 AM
                            [**2201-10-22**]  05:37 AM
                            [**2201-10-22**]  10:05 AM
                            [**2201-10-22**]  11:31 AM
                            [**2201-10-22**]  03:04 PM
                            [**2201-10-23**]  06:10 AM
                            [**2201-10-24**]  06:00 AM
                            [**2201-10-25**]  03:06 AM
                            [**2201-10-26**]  05:09 AM
   WBC
   5.8
   5.8
   6.4
   6.3
   7.6
   5.2
   Hct
   24.7
   24.9
   26.2
   27.5
   25.6
   25.2
   Plt
   [**Telephone/Fax (3) 10913**]
   Cr
   1.3
   1.5
   1.4
   1.5
   1.5
   1.5
   TCO2
   26
   30
   30
   29
   Glucose
   87
   126
   129
   117
   133
   115
   Other labs: PT / PTT / INR:13.1/32.8/1.1, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure MRSA
   PNA.  Hypoxia has improved with ventilation.  Sputum cx and BAL here
   (+) for MRSA PNA.  Status post trach.
   - on vanc last day [**11-4**], on albuterol and ipratropium.  Completed 8 day
   course of cefepime.
   - daily rsbi and PSV, wean trials, on trach
   - continued on fluconazole D7/7 (thrush)
   .
   # ARF: Cr elevated this AM 1.5.  Unclear what baseline Cr is; trough Cr
   during this hospitalization is 1.0.  No acute elevation in BUN.  Likely
   pre-renal as has resolved with fluids.
   - PRN boluses.
   - free water flushes with tube feeds.
   - dose vanc renally 1g Q48H
   .
   # MRSA PNA
 found to have MRSA in sputum
   - vancomycin for 3 weeks (started [**10-14**] end [**11-4**]), completed cefepime
   per bronch recs.  No indications for atypical coverage at this time.
   - f/u daily vanc level, reduced to 1g q 48h.
   - PICC today
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient was
   repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors, tolerating BB
   - trend hct
   .
   # anticoagulation/DVT in UE: patient has bioprosthetic valves and
   nursing noted LUE  swollen, 3+ edema > RUE. Not warm to touch. PICC
   flushing and drawing back wnls.
   - UE Doppler (-) [**10-25**]
   - warfarin restarted
   .
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.  Patient has a history of anemia,
   unclear baseline hct.
   - transfuse PRN
   - hemolysis labs, B12, folate wnl
 no source found
   - xfuse hct<21 or active ischemia
   - needs o/p work-up
   .
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - hold diuresis
   - continue home dose BB
   - keep roughly even if possible
   - PO Lasix (near home dose)
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   .
   # HL: continued home lipitor
   .
   # Depression/Anxiety: continued abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding, PEG
   .
   ACCESS: L PICC
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI PO
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: on tube feeds
   .
   DISPO: CCU for now, going for rehab, need to consolidate o/p meds.  If
   prolonged delay, pulm willing to take patient
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-10-25**] 11:41 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-10-21**] 12:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   No change in plan. Continue weaning efforts slowly.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4533**], MD
   on:[**2201-10-26**] 18:46 ------

2201-10-27 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   no events
   Allergies:
   Aldactone (Oral) (Spironolactone)
   Unknown; gynact
   Last dose of Antibiotics:
   Vancomycin - [**2201-10-26**] 08:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-10-26**] 11:41 AM
   Lansoprazole (Prevacid) - [**2201-10-26**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2201-10-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-10-27**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 69 (68 - 101) bpm
   BP: 118/59(72) {103/44(59) - 135/69(84)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97.1 kg (admission): 87.4 kg
   Height: 68 Inch
                  Total In:
                                                                  3,027 mL
                                                                    739 mL
   PO:
                  TF:
                                                                  1,327 mL
                                                                    409 mL
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  2,341 mL
                                                                    495 mL
   Urine:
                                                                  2,341 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    686 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 362 (311 - 458) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 5.7 L/min
   Physical Examination
   GEN: intubated, responsive, interactive, follows commands
   CV: irregular, regular rate, [**2-6**] SM heard best @ LLSB, [**1-9**] DM heard
   best @ axilla
   RESP: transmitted upper airway sounds, no appreciable rales
   ABD: +BS, S, NT/ND
   EXT: WWP, 2+ pulses bilaterally
   Labs / Radiology
   256 K/uL
   7.6 g/dL
   115 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.7 mEq/L
   34 mg/dL
   103 mEq/L
   138 mEq/L
   24.2 %
   5.6 K/uL
        [image002.jpg]
                            [**2201-10-21**]  10:44 AM
                            [**2201-10-22**]  05:37 AM
                            [**2201-10-22**]  10:05 AM
                            [**2201-10-22**]  11:31 AM
                            [**2201-10-22**]  03:04 PM
                            [**2201-10-23**]  06:10 AM
                            [**2201-10-24**]  06:00 AM
                            [**2201-10-25**]  03:06 AM
                            [**2201-10-26**]  05:09 AM
                            [**2201-10-27**]  04:45 AM
   WBC
   5.8
   6.4
   6.3
   7.6
   5.2
   5.6
   Hct
   24.9
   26.2
   27.5
   25.6
   25.2
   24.2
   Plt
   282
   303
   315
   [**Telephone/Fax (3) 10925**]
   Cr
   1.5
   1.4
   1.5
   1.5
   1.5
   1.5
   TCO2
   26
   30
   30
   29
   Glucose
   126
   129
   117
   133
   115
   115
   Other labs: PT / PTT / INR:13.1/32.1/1.1, CK / CKMB /
   Troponin-T:102/3/0.05, ALT / AST:[**11-25**], Alk Phos / T Bili:107/0.5,
   Amylase / Lipase:90/, Differential-Neuts:75.9 %, Lymph:6.9 %, Mono:7.3
   %, Eos:9.6 %, D-dimer:980 ng/mL, Fibrinogen:760 mg/dL, Lactic Acid:0.5
   mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.5 mg/dL
   LUE US: No evidence of DVT.
   Assessment and Plan
   58-year-old man with history of congenital heart disease and repairs in
   [**2160**], [**2185**] and [**2199**], status post replacements of the pulmonic and
   mitral valves with mosaic bioprostheses, closure of VSD and PFO, and
   surgical repair of the tricuspid valve, with CHF, DM, chronic afib on
   coumadin and multiple GIB, on home O2 transferred from OSH for
   continued management of heart failure.
   .
   # Hypercarbic Resp failure: Patient has baseline hypercarbia with PCO2
   in 60s and baseline bicarb in 40s. On O2 at home for presumed pulmonary
   hypertension.  Etiology for initial acute hypercarbic resp failure MRSA
   PNA.  Hypoxia has improved with ventilation.  Sputum cx and BAL here
   (+) for MRSA PNA.  Status post trach.
   - on vanc last day [**11-4**], on albuterol and ipratropium.  Completed 8 day
   course of cefepime.
   - daily rsbi and PSV, wean trials, on trach, f/u ABG
   - continued on fluconazole D7/7 (thrush)
   .
   # ARF: Cr elevated this AM 1.5.  Unclear what baseline Cr is; trough Cr
   during this hospitalization is 1.0.  No acute elevation in BUN.  Likely
   pre-renal as has resolved with fluids.
   - PRN boluses.
   - free water flushes with tube feeds.
   - dose vanc renally 1g Q48H
   .
   # MRSA PNA
 found to have MRSA in sputum
   - vancomycin for 3 weeks (started [**10-14**] end [**11-4**]), completed cefepime
   per bronch recs.  No indications for atypical coverage at this time.
   - f/u daily vanc level, reduced to 1g q 48h.
   - PICC today
   .
   # Hypotension: Could be [**1-5**] hypovolemia +/- distributive shock.  CVP
   measured at 16 but given TR may not accurately reflect volume
   status/preload.  No lactate to indicated hypoperfusion.  Patient was
   repleted 5L since admission with substantial decrease in pressor
   requirement, as well as resolution of pre-renal insufficiency.
   - now off pressors, tolerating BB
   - trend hct
   .
   # anticoagulation/DVT in UE: patient has bioprosthetic valves and
   nursing noted LUE  swollen, 3+ edema > RUE. Not warm to touch. PICC
   flushing and drawing back wnls.
   - UE Doppler (-) [**10-25**]
   - warfarin restarted
   .
   # acute Hct drop
 downtrending since admission.  No clear source of
   bleeding as hemoptysis has resolved.  Patient has a history of anemia,
   unclear baseline hct.
   - transfuse PRN
   - hemolysis labs, B12, folate wnl
 no source found
   - xfuse hct<21 or active ischemia
   - needs o/p work-up
   .
   # hemoptysis: Patient noted to have grossly bloody material from ET
   tube upon admission which had been going on at OSH. Unclear if
   traumatic intubation with coumadin on board. NG lavage negative upon
   arrival. Prelim CXR unchanged. The differential includes
   PNA/bronchitis, bronchiectasis, pulm AVM, or cancer.  No continued
   bloody secretions from ET tube.
   - bronch showed only intubation trauma
   - suction / oral care as needed
   .
   # PUMP: Patient with history of pulmonary hypertension and borderline
   RV failure presented with hypotension and OSH echo showed elevated PA
   consistent with worsened RV failure. Given history of congenital heart
   disease etiology of RV failure most likely [**1-5**] pulmonary hypertension.
   His pulmonary hypertension is likely [**1-5**] to worsening VSD or mitral
   regurgitation. Alternatively, his worsening RV function can also be due
   to worsen tricuspid regurgitation. No ischemic EKG changes to positive
   troponins to indicate RV infarct. Bedside echo obtained upon arrival to
   [**Hospital1 54**] but difficult to interpret with but estimated EF 30-40%. An
   infective endocarditis could also account for valvular deterioration.
   - hold diuresis
   - continue home dose BB
   - keep roughly even if possible
   - PO Lasix (near home dose)
   .
   # RHYTHM: History of Chronic Afib present on admission, anticoagulated
   on admission, held for hemoptysis and rate controlled.
   - monitor on tele
   - monitor coags
   - resume anticoagulation
   .
   # Eosinophilia: Absolute with diffuse erythematous rash c/w drug
   eruption. Patient received Vanc/CTX/Clindamycin at OSH for unclear
   reasons but were stopped which are most likely culprits for drug rate.
   - resolving now off CTX/clindamycin
   .
   # Thrombocytopenia: Resolved at OSH, not on heparin so HIT unlikely. No
   oozing from PIV.
   - significantly improved since admission; ?drug rxn from abx
   .
   # Diabetes: Apparently diet controlled.
   - follow QID FS with HISS
   .
   # HL: continued home lipitor
   .
   # Depression/Anxiety: continued abilify
   .
   FEN: follow and replete lytes, nutrition consult for tube feeding, PEG
   .
   ACCESS: L PICC
   .
   PROPHYLAXIS:
   -DVT ppx with subQ hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -Stress ulcer ppx: q24h PPI PO
   .
   CODE: full code (per OSH documentation)
   .
   COMM: Proxy name: [**First Name8 (NamePattern2) 3676**] [**Known lastname **]  Relationship: brother  Phone:
   [**Telephone/Fax (1) 10805**]
   .
   Nutrition: on tube feeds
   .
   DISPO: CCU for now, going for rehab, need to consolidate o/p meds.  If
   prolonged delay, pulm willing to take patient
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-10-27**] 02:48 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-10-21**] 12:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   No changes.
   Plan for possible discharge to respiratory rehab facility today. Have
   reviewed plan with CCU team and nursing. Anticipate slow weaning
   process.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4533**], MD
   on:[**2201-10-27**] 13:06 ------